.include gates.sub

.subckt PG A0 B0 A1 B1 A2 B2 A3 B3 G0 P0 G1 P1 G2 P2 G3 P3

Xand0 A0 B0 G0 AND
Xxor0 A0 B0 P0 XOR

Xand1 A1 B1 G1 AND
Xxor1 A1 B1 P1 XOR

Xand2 A2 B2 G2 AND
Xxor2 A2 B2 P2 XOR

Xand3 A3 B3 G3 AND
Xxor3 A3 B3 P3 XOR


.ends